US07300951B2
A. 3,3,3-Trifluoro-2-(trifluoromethyl)-1-(hydroxymethyl)propylamine
A solution of 4,4,4,4′,4′,4′-hexafluoro-DL-valine (0.500 g, 2.22 mmol) in THF (20 mL) was stirred under nitrogen at 25° C. Borane-THF complex (6.66 mL, 1.0 M in THF) was added dropwise and the resulting solution stirred for 4 h at 25° C. After this time period, the reaction was complete by TLC (10:2:1 EtOAc:EtOH:H2O). The reaction mixture was quenched by slow addition of 10% HOAc in MeOH (23 mL). After concentration, the residue was dissolved in Et2O (200 mL) and washed with saturated aqueous NaHCO3 (3×20 mL) and brine (20 mL), and then dried using Na2SO4. After concentration, the resulting residue was used directly in the next reaction without further purification.

reactant | 4,4,4,4′,4′,4′-hexafluoro-DL-valine | 2.22 mmol, 0.500 g | FC(C(C(N)C(=O)O)C(F)(F)F)(F)F | C5H5F6NO2
reactant | Borane THF | 1.0 M, 6.66 mL | B.C1CCOC1
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | EtOH | CCO | C2H6O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 3,3,3-Trifluoro-2-(trifluoromethyl)-1-(hydroxymethyl)propylamine | FC(C(C(CO)N)C(F)(F)F)(F)F | C5H7F6NO
